US07544697B2
3-(4-Amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)-2,2-dimethylpropanenitrile (657 mg, 2.14 mmol), ethanol (10 mL), concentrated ammonium hydroxide (2.1 mL), and 30% w/w hydrogen peroxide (2.8 g) were combined in a sealed glass tube and heated at 70° C. for seven hours. During this time, the reaction was periodically cooled and the pressure released. Additional hydrogen peroxide (1.4 g) was added, and the reaction was heated at 70° C. for five hours, with periodic cooling and venting. The reaction was cooled to 0° C., and water (25 mL) was added. A precipitate formed and was isolated by filtration, washed with water, purified by chromatography on a HORIZON HPFC instrument (40M cartridge), and recrystallized from acetonitrile. The crystals were dried on the vacuum filter funnel for two hours to provide 485 mg of 3-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)-2,2-dimethylpropanamide as a white solid, mp 224-225° C.

reactant | 3-(4-Amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)-2,2-dimethylpropanenitrile | 2.14 mmol, 657 mg | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C#N)(C)C)CCC | C18H21N5
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | ammonium hydroxide | 2.1 mL | [OH-].[NH4+]
reactant | hydrogen peroxide | 2.8 g | OO | H2O2
reactant | hydrogen peroxide | 1.4 g | OO | H2O2
solvent | water | 25 mL | O | H2O
product | 3-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)-2,2-dimethylpropanamide | 485 mg | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C(=O)N)(C)C)CCC | C18H23N5O
